### ISSUE TITLE
BZMathlib dependency analysis: feasibility of hoisting Monic-route cluster helpers above monic_primitive_sign_normalized_of_monic body (deferred from #5038)

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#5040]
## Current state

`HexBerlekampZassenhausMathlib/Basic.lean:4473` defines
`theorem monic_primitive_sign_normalized_of_monic`. Its body
(lines 4478-4515) derives, from a single `Hex.DensePoly.Monic factor`
hypothesis, three propositions that are now individually packaged by
the post-#4991 Monic-route cluster helpers:

- `0 < factor.coeffs.size` (lines 4479-4491, 13-line `rcases` proof)
  — duplicates `zpoly_size_pos_of_monic` (`Basic.lean:6720`, `private`).
- `Hex.ZPoly.content factor = 1` (lines 4496-4509, 14-line proof)
  — same proposition as `zpoly_primitive_of_monic` (`Basic.lean:6749`),
  modulo the `Hex.ZPoly.Primitive` ↔ `content = 1` def-unfold.
- `Hex.normalizeFactorSign factor = factor` (lines 4510-4515, 6-line
  proof) — same proposition as `zpoly_normalize_factor_sign_of_monic`
  (`Basic.lean:6754`).

The cluster helpers are all defined ~2200 lines *below*
`monic_primitive_sign_normalized_of_monic`, so they cannot be invoked
from inside its body without a hoist. Issue #5038 (in flight) hoists
`zpoly_size_pos_of_monic` over a single intermediate theorem
(`monicModularImage_modP_eq_of_monic`, line 5331) for a different
call site. Its body explicitly defers the line-4479 rewire as out of
scope: "rewiring the inline `0 < factor.coeffs.size` proof inside the
`monic_primitive_sign_normalized_of_monic` body at
`Basic.lean:4479-4492` (that requires a deeper hoist with separate
dependency analysis)."

This review is the "separate dependency analysis."

## Deliverables

Post a single audit comment on this issue with three sections:

1. **Cluster helper dependency inventory.** For each of the four
   helpers used by `monic_primitive_sign_normalized_of_monic`'s body
   (`zpoly_size_pos_of_monic` at 6720, `zpoly_lc_pos_of_monic` at
   6742, `zpoly_primitive_of_monic` at 6749,
   `zpoly_normalize_factor_sign_of_monic` at 6754), list every term
   the helper's proof body references, with the line at which that
   term is defined or imported (use
   `git grep -n "term"` and Lean's "go to definition" if needed).
   Report whether all referenced terms are available *above*
   `Basic.lean:4473`.

2. **Hoist feasibility verdict.** Conclude one of:
   - **(a) Hoist is feasible**: all four helpers can be moved as a
     contiguous block to immediately above line 4473 with no
     forward-reference breakage. Specify the target landing line
     and the expected line offset for downstream code.
   - **(b) Hoist is blocked**: at least one helper depends on a term
     defined between lines 4473 and 6720. Name the term, give its
     definition line, and assess whether a *further* hoist of that
     term is reasonable (single-helper API drag vs. cascading
     dependency).
   - **(c) Hoist is feasible but only for a subset**: e.g.,
     `zpoly_size_pos_of_monic` and `zpoly_normalize_factor_sign_of_monic`
     hoist cleanly, while the others drag dependencies. Specify the
     hoistable subset.

3. **Draft follow-up issue body.** If verdict is (a) or (c), draft
   the body of the feature issue that performs the hoist plus the
   in-scope subset of body rewires in
   `monic_primitive_sign_normalized_of_monic`. Use the same shape as
   #5038's body: list the helper blocks being moved, the target
   landing line, the in-scope inline blocks being replaced with
   one-liners (e.g., the 13-line `hcs_pos` block → `have hcs_pos :
   0 < factor.coeffs.size := zpoly_size_pos_of_monic hfactor_monic`),
   the expected line-offset shift, and the standard verification
   checklist. If verdict is (b), draft a "deferred: blocked by X"
   note explaining the obstacle for future planner cycles. Either
   way, the deliverable is the comment containing the verdict and
   the (drafted) follow-up body.

## Context

- Read-only audit. No code changes. Verify clean `git diff --check`
  and empty `git diff origin/main` before posting the comment.
- Out of scope: any rewrite of #5031/#5039's call-site coverage
  scans; any audit of helpers outside the four listed above (notably
  `zpoly_ne_zero_of_monic`, `zpoly_ne_zero_of_pos_lc`,
  `defaultFactorCoeffBound_leadingCoeff_natAbs_le` — these are not
  used inside `monic_primitive_sign_normalized_of_monic`'s body);
  any audit of the *callers* of
  `monic_primitive_sign_normalized_of_monic` itself (that is the
  scope of #5039 invariant 2).
- The hoist's user is the single theorem at line 4473, but the
  hoisted helpers would simultaneously remain visible to their
  existing nine downstream call sites (`Basic.lean:5338` — pending
  via #5038 — and lines 7432, 7741, 7777, 7848, 7849, 8387, 8538,
  8706, 10890 for `zpoly_size_pos_of_monic` alone). Hoisting only
  preserves visibility downward, never up, so the audit can assume
  existing call sites remain valid after the hoist.
- The body's `0 < factor.coeffs.size`, `Hex.ZPoly.content factor = 1`,
  and `Hex.normalizeFactorSign factor = factor` propositions are
  precisely the cluster's contract — this audit is the prerequisite
  for closing the last "self-derivation" gap in the cluster, where
  the theorem whose name names the cluster's three outputs proves
  them inline instead of via the cluster.

## Verification

- The audit comment is posted as a single GitHub comment on this
  issue and contains all three sections.
- The comment cites specific line numbers and file paths (the
  reader should be able to verify any claim by following the
  citation, without re-doing the audit).
- Verdict is one of (a), (b), (c) — explicit.
- If verdict is (a) or (c), a drafted follow-up body is included
  inline in the comment, ready for a future planner to copy into a
  new feature issue.
- `git diff --check`: clean.
- `git diff origin/main`: empty.
- `python3 scripts/check_dag.py`: exit 0.

**Comment by kim-em** [comment]
Session: `9a9f1214-c4d8-4c0a-81c1-79bb94b0be22` Branch: `agent/9a9f1214`

**Comment by kim-em** [comment]
Claimed by session `420e42bd-c1f3-42a6-827b-2bee5333046c` on branch `agent/420e42bd`

**Comment by kim-em** [comment]
## Audit: hoist feasibility of Monic-route cluster helpers above `monic_primitive_sign_normalized_of_monic`

### 1. Cluster helper dependency inventory

Each helper's proof body audited for every referenced term, with the
defining line and whether it is available *above* `Basic.lean:4473`.

#### `zpoly_size_pos_of_monic` (`Basic.lean:6720`, `private`)

```
private theorem zpoly_size_pos_of_monic {f : Hex.ZPoly}
    (h : Hex.DensePoly.Monic f) : 0 < f.size := by
  have hlead : Hex.DensePoly.leadingCoeff f = (1 : Int) := h
  rcases Nat.eq_zero_or_pos f.coeffs.size with hcs_zero | hcs_pos
  · exfalso
    have hback_none : f.coeffs.back? = none := by
      rw [Array.back?_eq_getElem?]; simp [hcs_zero]
    have hlc_zero : Hex.DensePoly.leadingCoeff f = (0 : Int) := by
      unfold Hex.DensePoly.leadingCoeff; rw [hback_none]; rfl
    rw [hlc_zero] at hlead
    exact absurd hlead (by decide)
  · exact hcs_pos
```

| Referenced term | Defined at | Available above 4473? |
| --- | --- | --- |
| `Hex.ZPoly` (type) | `HexPolyZ/Basic.lean` (import) | ✅ |
| `Hex.DensePoly.Monic` | `HexPoly/Euclid.lean:29` (import) | ✅ |
| `Hex.DensePoly.leadingCoeff` | `HexPoly/Euclid.lean:21` (import) | ✅ |
| `Hex.ZPoly.size`, `Hex.ZPoly.coeffs` | structure projections | ✅ |
| `Nat.eq_zero_or_pos` | Mathlib std | ✅ |
| `Array.back?_eq_getElem?` | Lean std | ✅ |

All referenced terms are imported. **Hoistable above 4473.**

#### `zpoly_lc_pos_of_monic` (`Basic.lean:6742`)

```
theorem zpoly_lc_pos_of_monic {f : Hex.ZPoly}
    (h : Hex.DensePoly.Monic f) :
    0 < Hex.DensePoly.leadingCoeff f := by
  rw [show Hex.DensePoly.leadingCoeff f = (1 : Int) from h]
  decide
```

| Referenced term | Defined at | Available above 4473? |
| --- | --- | --- |
| `Hex.ZPoly` | `HexPolyZ/Basic.lean` (import) | ✅ |
| `Hex.DensePoly.Monic` | `HexPoly/Euclid.lean:29` (import) | ✅ |
| `Hex.DensePoly.leadingCoeff` | `HexPoly/Euclid.lean:21` (import) | ✅ |

All referenced terms are imported. **Hoistable above 4473.**

#### `zpoly_primitive_of_monic` (`Basic.lean:6749`)

```
theorem zpoly_primitive_of_monic {f : Hex.ZPoly}
    (h : Hex.DensePoly.Monic f) : Hex.ZPoly.Primitive f :=
  (monic_primitive_sign_normalized_of_monic h).2.1
```

| Referenced term | Defined at | Available above 4473? |
| --- | --- | --- |
| `Hex.ZPoly` | `HexPolyZ/Basic.lean` (import) | ✅ |
| `Hex.DensePoly.Monic` | `HexPoly/Euclid.lean:29` (import) | ✅ |
| `Hex.ZPoly.Primitive` | `HexPolyZ/Basic.lean:37` (import) | ✅ |
| **`monic_primitive_sign_normalized_of_monic`** | **`Basic.lean:4473`** | ❌ — depends on the very theorem whose body is the rewire target |

**NOT hoistable above 4473.** This helper is literally the
destructure-projection corollary
`(monic_primitive_sign_normalized_of_monic h).2.1` and therefore
cannot be defined *before* `monic_primitive_sign_normalized_of_monic`
in source order.

#### `zpoly_normalize_factor_sign_of_monic` (`Basic.lean:6754`)

```
theorem zpoly_normalize_factor_sign_of_monic {f : Hex.ZPoly}
    (h : Hex.DensePoly.Monic f) : Hex.normalizeFactorSign f = f :=
  (monic_primitive_sign_normalized_of_monic h).2.2
```

| Referenced term | Defined at | Available above 4473? |
| --- | --- | --- |
| `Hex.ZPoly` | `HexPolyZ/Basic.lean` (import) | ✅ |
| `Hex.DensePoly.Monic` | `HexPoly/Euclid.lean:29` (import) | ✅ |
| `Hex.normalizeFactorSign` | `HexBerlekampZassenhaus/Basic.lean:1258` (import) | ✅ |
| **`monic_primitive_sign_normalized_of_monic`** | **`Basic.lean:4473`** | ❌ — same circularity as above |

**NOT hoistable above 4473.** Same `.2.2` projection corollary
pattern.

### 2. Hoist feasibility verdict

**Verdict (c): partial hoist feasible.**

- `zpoly_size_pos_of_monic` and `zpoly_lc_pos_of_monic` can be moved
  as a contiguous two-helper block to immediately above line 4473 with
  no forward-reference breakage.
- `zpoly_primitive_of_monic` and `zpoly_normalize_factor_sign_of_monic`
  must remain *below* `monic_primitive_sign_normalized_of_monic`
  because they are its destructure-projection corollaries
  (`.2.1`/`.2.2` against its conjunctive conclusion). They are
  *defined in terms of* the target theorem; hoisting them above it is
  not a dependency-resolution problem but a structural inversion of the
  cluster's proof direction.

#### Rewire-site impact (the practical bottom line)

Of the body's inline blocks at `Basic.lean:4478-4515`, only one is
addressable by the in-scope partial hoist:

| Inline block | Lines | Corresponds to helper | Rewireable under partial hoist? |
| --- | --- | --- | --- |
| `hlead := hfactor_monic` | 4478 | — (`Monic` def unfold) | n/a (1 line, no helper site) |
| `hcs_pos : 0 < factor.coeffs.size` | 4479-4491 (13 lines) | `zpoly_size_pos_of_monic` | ✅ collapses to 1 line |
| `hcoeff_last` | 4493-4495 | — (uses `hlead`, not `0 < leadingCoeff`) | n/a — no `zpoly_lc_pos_of_monic` site |
| content = 1 case | 4497-4509 (13 lines) | `zpoly_primitive_of_monic` | ❌ would be circular |
| `normalizeFactorSign` case | 4510-4515 (6 lines) | `zpoly_normalize_factor_sign_of_monic` | ❌ would be circular |

`zpoly_lc_pos_of_monic` is hoistable but has **no rewire site** in the
body — the body uses `leadingCoeff = 1` (via `hlead`), never
`0 < leadingCoeff`. Hoisting it would be dead weight unless paired
with a separate motivating call site.

So the actionable scope of any follow-up issue is: hoist
`zpoly_size_pos_of_monic` above 4473 and rewire the `hcs_pos` block
(lines 4479-4491). The remaining two inline blocks (content and sign)
cannot be addressed by the cluster's existing helpers without
restructuring the cluster (e.g., inverting the proof direction so that
`monic_primitive_sign_normalized_of_monic` *calls*
`zpoly_primitive_of_monic` and `zpoly_normalize_factor_sign_of_monic`
instead of being their source). That inversion is out of scope for a
simple "hoist + rewire" cycle and is the only way to close the
remaining two-thirds of the self-derivation gap.

**Interaction with #5038 / PR #5042 (in flight):** #5042 hoists
`zpoly_size_pos_of_monic` from line 6720 to immediately above
`monicModularImage_modP_eq_of_monic` at line 5327 (rewiring one
line-5338 call site). Line 5327 is still *below* line 4473, so the
follow-up below performs a *further* hoist of the same helper from
~5327 to above 4473. Mark the follow-up `depends-on: #5042` so the
helper has settled at its post-#5042 location before this further
hoist begins.

### 3. Drafted follow-up issue body

Title: `BZMathlib: hoist zpoly_size_pos_of_monic above monic_primitive_sign_normalized_of_monic and rewire inline 13-line hcs_pos proof at Basic.lean:4479`

```
## Current state

`HexBerlekampZassenhausMathlib/Basic.lean:4473` defines
`theorem monic_primitive_sign_normalized_of_monic`. Its body at
`Basic.lean:4479-4491` derives `0 < factor.coeffs.size` inline via
a 13-line `rcases` block:

    have hcs_pos : 0 < factor.coeffs.size := by
      rcases Nat.eq_zero_or_pos factor.coeffs.size with hcs_zero | hcs_pos
      · exfalso
        have hback_none : factor.coeffs.back? = none := by
          rw [Array.back?_eq_getElem?]
          simp [hcs_zero]
        have hlc_zero : Hex.DensePoly.leadingCoeff factor = (0 : Int) := by
          unfold Hex.DensePoly.leadingCoeff
          rw [hback_none]
          rfl
        rw [hlc_zero] at hlead
        exact absurd hlead (by decide)
      · exact hcs_pos

The cluster's `zpoly_size_pos_of_monic` helper at `Basic.lean:6720`
(`private`, expected to land at ~`Basic.lean:5327` after #5042
merges) discharges exactly this implication in one application but
is currently defined *after* `monic_primitive_sign_normalized_of_monic`
and so cannot be referenced.

The helper's proof body uses only `Hex.DensePoly` accessors
(`coeffs`, `leadingCoeff`, `size`), `Array.back?_eq_getElem?`,
`Nat.eq_zero_or_pos`, and `decide` — no references to anything
defined later in the file. Hoisting it to above line 4473
introduces no forward-reference cost. The remaining three cluster
helpers (`zpoly_lc_pos_of_monic`,  `zpoly_primitive_of_monic`,
`zpoly_normalize_factor_sign_of_monic`) are **out of scope** for
this hoist: the latter two are destructure-projection corollaries
of `monic_primitive_sign_normalized_of_monic` itself and so cannot
be hoisted above it without restructuring the cluster
(see audit on #5040 for details).

## Deliverables

1. **Hoist** the `zpoly_size_pos_of_monic` definition block
   (the `/-- Monic integer polynomials have positive stored size. -/`
   docstring through the final `· exact hcs_pos`, ~13 lines) to
   immediately above the `monic_primitive_sign_normalized_of_monic`
   theorem at `Basic.lean:4473`. Visibility stays `private`; no
   signature or body edits.

2. **Rewire** `Basic.lean:4479-4491` to the one-liner

       have hcs_pos : 0 < factor.coeffs.size :=
         zpoly_size_pos_of_monic hfactor_monic

   (`0 < factor.size` from the helper is defeq to
   `0 < factor.coeffs.size` because `Hex.DensePoly.size = coeffs.size`;
   the existing line `have hsize_pos : 0 < factor.size := hcs_pos`
   already relies on this defeq.) Lines 4492-onwards stay as-is.

No other change. Out of scope:
- any rewire of the line-4497-4509 content-1 inline block or the
  line-4510-4515 normalizeFactorSign inline block — those require
  inverting the cluster's proof direction (see #5040 audit
  verdict (c) commentary) and are deferred;
- any hoist of `zpoly_lc_pos_of_monic` — hoistable in principle
  but has no rewire site in the body of
  `monic_primitive_sign_normalized_of_monic` (the body uses
  `leadingCoeff = 1`, not `0 < leadingCoeff`);
- any docstring change on the hoisted helper or on
  `monic_primitive_sign_normalized_of_monic`.

depends-on: #5042

## Context

- Cluster track lineage: PR #4991 introduced
  `zpoly_size_pos_of_monic` as `private`; PRs #5001 / #5009 /
  #5013 / #5022 / #5026 / #5028 / #5029 / #5033 added sibling
  helpers, rewired triple-destructure call sites, and closed
  docstring gaps. Review #5031 audited the cascade against
  invariants 1-3. #5038 / PR #5042 hoists the helper to above
  `monicModularImage_modP_eq_of_monic` (line 5327); this issue
  performs the further hoist to above
  `monic_primitive_sign_normalized_of_monic` (line 4473) that
  #5038 explicitly deferred as out of scope ("requires a deeper
  hoist with separate dependency analysis"). The audit is in
  #5040.
- The eleven existing call sites of `zpoly_size_pos_of_monic`
  (post-#5042: `Basic.lean:5338`, 7446, 7755, 7791, 7862, 7863,
  8402, 8553, 8721, 10899, and the helper definition's body;
  line numbers approximate, will shift by the +~13 hoist delta)
  all sit *below* both #5042's landing line (5327) and the new
  hoist target (above 4473), so they remain visible after the
  further hoist.

## Verification

- `git grep -nE ":= zpoly_size_pos_of_monic" HexBerlekampZassenhausMathlib/Basic.lean`:
  N → N+1 (the new line-4479-equivalent site; exact N depends on
  whether #5042 has merged).
- `git grep -nE "rcases Nat.eq_zero_or_pos factor.coeffs.size"
   HexBerlekampZassenhausMathlib/Basic.lean`:
  1 → 0 (the line-4480 occurrence inside the rewired block
  disappears; the only remaining occurrence is inside the helper
  body itself).
- `lake build HexBerlekampZassenhausMathlib.Basic` reproduces the
  documented baseline (the pre-edit 16-error/3-sorry set, modulo
  any drift from intervening merges) byte-identically modulo line
  shifts. Expected shift: lines between the hoist landing site
  (above 4473) and #5042's post-merge helper location (~5327)
  shift by +~13 (the hoisted block's height); lines after the old
  location shift by 0. The working agent should confirm the
  16-error type-set is unchanged.
- `lake build HexBerlekampZassenhausMathlib`: no new errors
  outside the documented baseline.
- `python3 scripts/check_dag.py`: exit 0.
- `git diff --check`: clean.
- No new `sorry`, `axiom`, `native_decide`, `TODO`, or `FIXME`.
- `git diff --stat origin/main` ≈ 1 file changed, ~+1 / ~−12
  (one block moved, one block collapsed; net negative since the
  rewire collapses 13 lines to 1).
```

---

**Audit verification (this comment):**

- `git diff --check`: clean.
- `git diff origin/main`: no changes against the audit (the only
  diff against `origin/main` in this worktree is pre-existing pod
  session setup of `.claude/CLAUDE.md`, not from this audit).
- `python3 scripts/check_dag.py`: exit 0.
